US07642264B2
2-{1-[6-Trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-1H-imidazol-4-yl}-thiazole-5-sulfonic acid tert-butylamide
A stirred mixture of 2-(4-tributylstannanyl-imidazol-1-yl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine (Example G.12) (0.570 g, 0.88 mmol), 2-chloro-thiazole-5-sulfonic acid tert-butylamide (Example H.1) (0.265 g, 0.99 mmol), tetrakis(triphenylphosphine)palladium (0.061 g, 0.046 mmol) in toluene (6 mL) was heated under reflux conditions for 16 h. Cooled to rt, some precipitate occurred, diluted with toluene (˜5 mL), added heptane, filtered the precipitate off, washed with toluene/heptane, dried in HV to give the title compound as a white solid (220 mg, 43%). MS (ISP) 576.3 [(M+H)+]; mp 252° C.

reactant | 2-(4-tributylstannanyl-imidazol-1-yl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine | 0.88 mmol, 0.570 g | C(CCC)[Sn](C=1N=CN(C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F)(CCCC)CCCC
reactant | 2-chloro-thiazole-5-sulfonic acid tert-butylamide | 0.99 mmol, 0.265 g | C(C)(C)(C)NS(=O)(=O)C1=CN=C(S1)Cl | C7H11ClN2O2S2
reactant | heptane | CCCCCCC | C7H16
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | ˜5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.046 mmol, 0.061 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{1-[6-Trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-1H-imidazol-4-yl}-thiazole-5-sulfonic acid tert-butylamide | 220 mg, 43% | C(C)(C)(C)NS(=O)(=O)C1=CN=C(S1)C=1N=CN(C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C23H19F6N5O2S2
